US08623871B2
Into a 50 ml round bottom flask, was placed [3-Methyl-1-(2′-methyl-5′-oxazol-2-yl-biphenyl-4-ylcarbamoyl)-butyl]-carbamic acid tert-butyl ester (370 mg, 0.80 mmol) followed by the slow addition of a solution of 2,2,2-trifluoroacetic acid (3 ml) in DCM (7 ml) with stirring. The resulting solution was allowed to stir at rt for 4 hours. The reaction progress was monitored by TLC (CH2Cl2/MeOH=10:1). The mixture was then concentrated by evaporation under vacuum using a rotary evaporator. Adjustment of the pH to 7-8 was accomplished by the addition of aq NaHCO3 (sat.). The resulting solution was extracted three times with 10 ml of EtOAc and the organic layers combined and dried over Na2SO4 and concentrated by evaporation under vacuum using a rotary evaporator. The residue was triturated with 10 ml of n-Hexane to provide 30 mg (21%) of 2-Amino-4-methyl-pentanoic acid (2′-methyl-5′-oxazol-2-yl-biphenyl-4-yl)-amide as a white solid.

reactant | [3-Methyl-1-(2′-methyl-5′-oxazol-2-yl-biphenyl-4-ylcarbamoyl)-butyl]-carbamic acid tert-butyl ester | 0.80 mmol, 370 mg | C(C)(C)(C)OC(NC(CC(C)C)C(NC1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC=CN1)C)=O)=O | C27H33N3O4
reactant | 2,2,2-trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-4-methyl-pentanoic acid (2′-methyl-5′-oxazol-2-yl-biphenyl-4-yl)-amide | 30 mg, 21% | CC1=C(C=C(C=C1)C=1OC=CN1)C1=CC=C(C=C1)NC(C(CC(C)C)N)=O | C22H25N3O2
